US07067537B2
iii) Production of 2-bromo-1-(4-ethylpyridin-3-yl)ethanone hydrobromate
By the reaction in the same manner as in Example 53-ii) using 1-(4-ethylpyridin-3-yl)ethanone (1.68 g) and bromine (1.60 g), the title compound (1.95 g) was obtained as a pale-brown powder.

reactant | 1-(4-ethylpyridin-3-yl)ethanone | 1.68 g | C(C)C1=C(C=NC=C1)C(C)=O | C9H11NO
reactant | bromine | 1.60 g | BrBr | Br2
product | 2-bromo-1-(4-ethylpyridin-3-yl)ethanone | 1.95 g | BrCC(=O)C=1C=NC=CC1CC | C9H10BrNO
